US06974870B2
Thioacetamide (326.0 mg, 4.339 mmol) and 2-bromomethyl-naphthalene (959.0 mg, 4.337 mmol) were placed in a 50 mL round-bottom flask. 20 mL of CHCl3 were added and the mixure was refluxed for 3 h at which time a white precipitate formed. The mixture was cooled and the precipitate collected. The precipitate was washed with 20 mL of CH2Cl2 and placed under vacuum for drying to give 1.01 g of thioacetimidic acid naphthalen-2-ylmethyl ester hydrobromide salt as a fine white powder.

reactant | Thioacetamide | 4.339 mmol, 326.0 mg | C(C)(=S)N | C2H5NS
reactant | 2-bromomethyl-naphthalene | 4.337 mmol, 959.0 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | thioacetimidic acid naphthalen-2-ylmethyl ester hydrobromide salt | 1.01 g | Br.C1=C(C=CC2=CC=CC=C12)CSC(C)=N | InChI=1S/C13H13NS.BrH/c1-10(14)15-9-11-6-7-12-4-2-3-5-13(12)8-11;/h2-8,14H,9H2,1H3;1H
